US06410556B1
A solution of 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (400 mg, 1.03 mmol) and benzaldehyde (105 mg, 1.03 mmol) was heated to 50° C in ethanol (20 ml) for 1 hour in the presence of molecular sieves (4 A, 7 ml). The reaction mixture was cooled on an ice bath before sodium borohydride (78 mg, 2.06 mmol) was added in three portions over 45 min. The cooling bath was removed and the reaction mixture was allowed to reach room temperature. The mixture was filtered through a plug of Celite and the filter cage was washed with dichloromethane (3×25 ml). The solvent was removed in vacuo and the residue was redissolved in ethyl acetate (50 ml), washed with sodium bicarbonate (50 ml) and dried (MgSO4). The solvent was removed in vacuo before the product was dissolved in dichloromethane (20 ml). The solution was cooled on an ice bath before di-isopropyl-ethyl amine (267 mg, 2.06 mmol) was added followed by drop wise addition of acetyl chloride (81 mg, 1.03 mmol) in dichloromethane (1 ml). The reaction mixture was stirred 1 hour at 0° C. before sodium bicarbonate (20 ml) was added. The mixture was extracted with dichloromethane (2×10 ml) and the combined organic fractions were dried (MgSO4). The crude product was purified by flash column chromatography (petrol ether/ethyl acetate (3:1)), which afforded 250 mg (46%) of 7-(S)-((acetyl-benzyl-amino)methyl)-2-amino-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester.

reactant | 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.03 mmol, 400 mg | C(C)(C)(C)OC(=O)C1=C(SC=2[C@@H](N(CCC21)[C@@H](C)C2=CC=CC=C2)CN)N | C21H29N3O2S
reactant | benzaldehyde | 1.03 mmol, 105 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 2.06 mmol, 78 mg | [BH4-].[Na+]
reactant | di-isopropyl-ethyl amine | 2.06 mmol, 267 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 1.03 mmol, 81 mg | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 7-(S)-((acetyl-benzyl-amino)methyl)-2-amino-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 250 mg, 46% | C(C)(C)(C)OC(=O)C1=C(SC=2[C@@H](N(CCC21)[C@@H](C)C2=CC=CC=C2)CN(CC2=CC=CC=C2)C(C)=O)N | C30H37N3O3S
